US05705531
(1S,3aS,5S,7aR)-1-[(E)-2-Guanidinoethoxyimino]methyl-5-phenyl-7a-methylperhydroinden-3a-ol nitrate (I-db)
A solution of 0.75 g of (1S,3aS,5S,7aR)-1-[(E)-2-aminoethoxyimino]methyl-5-phenyl-7a-methylperhydroinden-3a-ol (I-am) and 1.05 g of 1-amidino-3,5-dimethylpirazole nitrate in 20 ml of ethanol was heated at reflux for 10 hrs. The solution was evaporated to dryness under reduced pressure and the residue was purified by flash chromatography (SiO2) with chloroform/methanol/28% ammonium hydroxide 78:20:2 as the eluant. The fractions containing the title compound were collected and evaporated to dryness. The residue was ground with diisopropyl ether:ethanol 9:1 to give 0.42 g of the title compound (I-db) as a white solid.

reactant | (1S,3aS,5S,7aR)-1-[(E)-2-aminoethoxyimino]methyl-5-phenyl-7a-methylperhydroinden-3a-ol | 0.75 g | NCCO\N=C\[C@H]1CC[C@@]2(C[C@H](CC[C@]12C)C1=CC=CC=C1)O | C19H28N2O2
reactant | 1-amidino-3,5-dimethylpirazole nitrate | 1.05 g | [N+](=O)(O)[O-].C(N)(=N)N1N=C(C=C1C)C
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (1S,3aS,5S,7aR)-1-[(E)-2-Guanidinoethoxyimino]methyl-5-phenyl-7a-methylperhydroinden-3a-ol nitrate | 0.42 g | [N+](=O)([O-])O[C@@]12CC[C@@H]([C@]2(CC[C@@H](C1)C1=CC=CC=C1)C)/C=N/OCCNC(=N)N | C20H29N5O4
